US08044120B2
1,8-Diazabicyclo[5.4.0]undec-7-ene hydrochloride
26.8 g (0.5 mol) of ammonium chloride were introduced into a 500 ml stirred reactor fitted with nitrogen inlet and separate feed device and suspended in 200 ml of methanol. Over the course of 30 minutes 76.1 g (0.5 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) were added, where upon the reaction mixture was solubilized. The mixture was stirred for a further three hours and then the solvent was evaporated and the remaining solid dried in vacuo.

reactant | ammonium chloride | 0.5 mol, 26.8 g | [Cl-].[NH4+]
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.5 mol, 76.1 g | N12CCCCCC2=NCCC1 | C9H16N2
product | 1,8-Diazabicyclo[5.4.0]undec-7-ene hydrochloride | Cl.N12CCCCCC2=NCCC1 | InChI=1S/C9H16N2.ClH/c1-2-5-9-10-6-4-8-11(9)7-3-1;/h1-8H2;1H
